US04275065
7-Ethoxy-3-hydroxy-2-phenylthiazolo[2,3-b]benzothiazolium bromide
A 2.5 l. acetone solution of 50.0 g. (0.237 moles) 6-ethoxyl-2-mercaptobenzothiazole and 51.0 g. (0.237 moles) α-bromophenylacetic acid containing 100 ml. glacial acetic acid and 100 ml. acetic anhydride is heated in an open flask until the solution is reduced to 2 l. The solution is allowed to stand at room temperature overnight. The precipitated solid is collected, washed with acetone and ether, and dried in an oven. The product, weighing 34.7 g. (36% yield), does not melt below 270° C.

reactant | acetone | CC(=O)C | C3H6O
reactant | 6-ethoxyl-2-mercaptobenzothiazole | 0.237 moles | O(CC)C1=CC2=C(N=C(S2)S)C=C1 | C9H9NOS2
reactant | α-bromophenylacetic acid | 0.237 moles, 100 ml | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-Ethoxy-3-hydroxy-2-phenylthiazolo[2,3-b]benzothiazolium bromide | 36% yield | [Br-].C(C)OC1=CC2=C([N+]3=C(S2)SC(=C3O)C3=CC=CC=C3)C=C1 | InChI=1S/C17H13NO2S2.BrH/c1-2-20-12-8-9-13-14(10-12)21-17-18(13)16(19)15(22-17)11-6-4-3-5-7-11;/h3-10H,2H2,1H3;1H
